US05763489
To a solution of 5-t-butyldiphenylsilyloxy-1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-2-oxo-1,2,3,4-tetrahydronaphthalene (0.9 g) in THF (tetrahydrofuran) (20 ml) was added methylmagnesium bromide (2.0 ml, 1M solution in THF) at 0° C. under N2. After being stirred for 1 hour at the room temperature, the solution was poured into a mixture of ethyl acetate and water. The organic layer was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 5-t-butyl-diphenylsilyloxy-1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-2-hydroxy-2-methyl-1,2,3,4-tetrahydronaphthalene (0.6 g).

reactant | 5-t-butyldiphenylsilyloxy-1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-2-oxo-1,2,3,4-tetrahydronaphthalene | 0.9 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCC(C(C2=CC=C1)CCOC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C41H41NO4Si
reactant | methylmagnesium bromide | 1M, 2.0 ml | C[Mg]Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | 5-t-butyl-diphenylsilyloxy-1-[2-(N,N-diphenylcarbamoyloxy)ethyl]-2-hydroxy-2-methyl-1,2,3,4-tetrahydronaphthalene | 0.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCC(C(C2=CC=C1)CCOC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)(C)O | C42H45NO4Si
